reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:10])[H:13])([H:11])[H:12])([H:7])([H:8])[H:9],71.19358582752521
[C:1](/[C:2](=[C:3]([C:4](=[C:5](\[C:6](=[O:7])[H:17])[H:15])\[H:14])/[H:12])[H:11])([H:8])([H:9])[H:10].[H:13][H:16]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],81.91272690003001
[O:1]([C:2]1=[N:3][C@@:4]1(/[N:5]=[N:6]/[H:9])[H:8])[H:7]>>[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7],40.0225380851719
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[N:2]/[C:3](=[N:4]/[H:11])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])[H:10].[H:9][H:12],62.7877183545043
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:6]/[C:5](=[N:4]/[H:15])[C:7]([H:16])([H:17])[H:18])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],73.1093566318752
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O+:3]=[C-:2][C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],115.317699250979
[C:1]([C:2]([C:3][C:5]([H:15])([H:16])[H:17])([H:9])[H:10])([H:6])([H:7])[H:8].[C:4]([H:11])([H:12])([H:13])[H:14]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],9.46701955213392
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3]1([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]([H:9])=[N:7]1,105.18836095368201
[C:1]1([H:7])([H:8])[O:2][C:3]([H:9])([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]([O:2][C:3]([C@@:4]1([H:11])[N:5]([H:12])[C:6]1)([H:9])[H:10])([H:7])([H:8])[H:13],84.9005421891547
[C:1]([C@@:2]([C:3]#[N:4])([C-:5]=[O+:6][C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],47.79303165302569
[C+:1]([N:2]([C:3]([O-:4])=[C:5]([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])[H:11])([H:9])[H:10].[H:8][H:12]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],22.62316844905891
[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1](/[C:5](=[C:4]1\[C:2]([H:9])([H:10])[C@@:3]1([C:6]#[C:7][H:13])[H:11])[H:12])[H:8],77.2978063661519
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3](=[O+:6][C-:5]([H:13])[H:14])[C:4]1([H:11])[H:12],98.2102047924345
[N:1]1([H:11])[C:2][C@@:3]2([H:7])[C:4]([H:8])([H:9])[C@:5]1([H:10])[O:6]2>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,43.5298349065223
[C:1](=[C:2]=[C:3]=[C:4]=[N:5][H:7])([H:6])[H:8]>>[C:1]([C:2]#[C:3][C:4]#[N:5])([H:6])([H:7])[H:8],61.0657905185724
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:11])=[C:4]([H:12])[H:13])([H:7])([H:8])[H:9].[C:5]=[N:6][H:10],101.905429418575
[O:1]=[C:2]([C:6](=[C:5]=[C:3]=[O:4])[H:8])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7],61.23849571237576
[C:1]([C@:2]1([H:14])[C:3]([H:11])([H:12])[C@@:4]2([H:13])[O+:5]=[C-:6][C@@:7]12[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],22.4268781845156
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5]([N:4]([C:7]([H:16])([H:17])[H:18])[H:15])=[O:6])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],118.513731381933
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[N:2][H:11])([H:9])[H:10].[C:3](=[O:4])([N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:8],104.92683766370399
[C:1]([O:4][C:3](=[C:2]([H:9])[H:10])[N:5]([H:11])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],67.6908102145135
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[C:6]([H:19])[H:20])[C:7]([H:21])([H:22])[H:23])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:17][H:18],109.075913860625
[C:1]([C:2]#[C:3][C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C+:3][C:4]#[C-:5])[H:9])([H:6])([H:7])[H:8],106.55546705643101
